US08309580B2
(7) methyl 4-({cyclohexyl[2-ethyl-5-(2-methylpropanoyl)thiophen-3-yl]methyl}amino)benzoate
To a solution of methyl 4-{[cyclohexyl(2-ethyl-5-formylthiophen-3-yl)methyl]amino}benzoate (400 mg) synthesized above in tetrahydrofuran (10 mL) was added dropwise 1.0M isopropylmagnesium bromide-tetrahydrofuran solution (1.25 mL) at 0° C., and the mixture was stirred for 1 hr under a nitrogen atmosphere. 1.0M Isopropylmagnesium bromide-tetrahydrofuran solution (1.25 mL) was added dropwise again, and the mixture was further stirred at 0° C. for 1 hr. Saturated aqueous ammonium chloride solution was added to quench the reaction, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by NH-silica gel column chromatography (ethyl acetate) to give a yellow oil. To a solution of the obtained oil in methylene chloride (10 mL) was added Dess-Martin reagent (662 mg) at 0° C., and the mixture was stirred for 1 hr. Saturated aqueous sodium sulfite solution was added to quench the reaction, methylene chloride was evaporated using evaporator, and the mixture was extracted with ethyl acetate. The extract was washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (15% ethyl acetate/hexane) to give the title compound (268 mg, 60%) as a pale-yellow oil.

reactant | methyl 4-{[cyclohexyl(2-ethyl-5-formylthiophen-3-yl)methyl]amino}benzoate | 400 mg | C1(CCCCC1)C(C1=C(SC(=C1)C=O)CC)NC1=CC=C(C(=O)OC)C=C1 | C22H27NO3S
reactant | isopropylmagnesium bromide tetrahydrofuran | 1.0M, 1.25 mL | C(C)(C)[Mg]Br.O1CCCC1
reactant | Isopropylmagnesium bromide tetrahydrofuran | 1.0M, 1.25 mL | C(C)(C)[Mg]Br.O1CCCC1
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | Dess-Martin reagent | 662 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | methyl 4-({cyclohexyl[2-ethyl-5-(2-methylpropanoyl)thiophen-3-yl]methyl}amino)benzoate | 268 mg, 60% | C1(CCCCC1)C(C1=C(SC(=C1)C(C(C)C)=O)CC)NC1=CC=C(C(=O)OC)C=C1 | C25H33NO3S
